US05312920
a) Methyl 2-[(4-bromophenyl)methylene]-3-oxoheptanoate
A mixture of 1.58 g (10 mmol) of methyl 3-oxoheptanoate, 1.85 g (10 mmol) of 4-bromobenzaldehyde, 0.04 ml of piperidine, 0.12 ml of acetic acid and 10 ml of toluene is heated to the refluxing temperature in a 25-ml round-bottomed flask equipped with a Dean and Stark apparatus. After two hours of heating, the theoretical amount of water is recovered and the toluene is evaporated off under vacuum.

reactant | methyl 3-oxoheptanoate | 10 mmol, 1.58 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | 4-bromobenzaldehyde | 10 mmol, 1.85 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | piperidine | 0.04 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.12 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-[(4-bromophenyl)methylene]-3-oxoheptanoate | BrC1=CC=C(C=C1)C=C(C(=O)OC)C(CCCC)=O | C15H17BrO3
